US07319163B2
To a stirred mixture of benzenesulphonamide (0.89 mmol), dichloromethane (1 mL) and dimethylformamide (one drop), a solution of 3,5-dibromo-4-(3-bromo-benzyloxy)benzoic acid (0.17 mmol) and N,N-diisopropylethylamine (0.86 mmol) in dichloromethane (1 mL) was added. After 15 minutes bromotripyrrolidino phosphoniumlhexafluoro phosphate (0.21 mmol) and 1-hydroxybenzotriazole hydrate (0.045 mmol) were added. The reaction mixture was stirred at room temperature over night. Dichloromethane was added (3 mL) and the mixture was washed with an aqueous solution of citric acid (10%, 3×3 mL). The organic layer was washed with brine, dried over magnesium sulphate and concentrated in vacuo. The residue was purified on column (silica gel, chloroform/methanol 19:1) and further purified on semi-preparative HPLC (column and eluents as described for Examples 27, 28 and 30) to give 16 mg (16%) of N-[3,5-dibromo-4-(3-bromobenzyloxy)benzoyl]benzene-sulphonamide.

reactant | benzenesulphonamide | 0.89 mmol | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | 3,5-dibromo-4-(3-bromo-benzyloxy)benzoic acid | 0.17 mmol | BrC=1C=C(C(=O)O)C=C(C1OCC1=CC(=CC=C1)Br)Br | C14H9Br3O3
reactant | N,N-diisopropylethylamine | 0.86 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxybenzotriazole hydrate | 0.045 mmol | O.ON1N=NC2=C1C=CC=C2
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-[3,5-dibromo-4-(3-bromobenzyloxy)benzoyl]benzene-sulphonamide | 16 mg, 16% | BrC=1C=C(C(=O)NS(=O)(=O)C2=CC=CC=C2)C=C(C1OCC1=CC(=CC=C1)Br)Br | C20H14Br3NO4S
